US05849735
5-([1,1'-Biphenyl]-4-ylcarbonyl)-6,7-dihydro-5H-dibenz[b,d]azepine
As described for Example 26, 6,7-dihydro-5H-dibenz[b,d]azepine is reacted with [1,1'-biphenyl]-4-carbonyl chloride to give the product as a solid.

reactant | 6,7-dihydro-5H-dibenz[b,d]azepine | C1=CC=CC=2NCCC3=C(C21)C=CC=C3 | C14H13N
reactant | [1,1'-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | 5-([1,1'-Biphenyl]-4-ylcarbonyl)-6,7-dihydro-5H-dibenz[b,d]azepine | C1(=CC=C(C=C1)C(=O)N1C2=C(C3=C(CC1)C=CC=C3)C=CC=C2)C2=CC=CC=C2 | C27H21NO
